US05521179
2-(2-Oxo-6-phenyl-3-ureido-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To a solution of 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.30 g) in tetrahydrofuran (5 mL), cooled to 0° C., was added, dropwise, chlorosulfonyl isocyanate (0.12 g). The reaction mixture was stirred for 10 min, neutralized with saturated aqueous sodium bicarbonate solution (1 mL), diluted with ethyl acetate (10 mL), and the organic phase washed (water, brine), dried (MgSO4) and evaporated. Purification by chromatography, using an eluant of methylene chloride:methanol (30:1), followed by overnight vacuum-drying (50° C. at 27 Pa), yielded the title product as a white solid (0.23 g); mp 227°-230° C. (dec); TLC: Rf =0.16, dichloromethane:methanol (20:1); 300 MHz NMR: 0.88 (2d,6), 2.15 (m,1), 4.50 (q,2), 4.65 (d,1), 6.18 (d,1), 6.40 (broad s,2), 7.40 (m,5), 8.08 (d,1), 8.35 (s,1), 8.75 (d,1); IR(KBr): 3470 (broad), 3360, 2980, 1760, 1700, 1535, 1490, 1210, 1160, 1020 cm-1 ; MS: m/z=439(M+1).

reactant | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.30 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C19H20F3N3O3
reactant | chlorosulfonyl isocyanate | 0.12 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | sodium bicarbonate | 1 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-Oxo-6-phenyl-3-ureido-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.23 g | O=C1N(C(=CC=C1NC(=O)N)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C | C20H21F3N4O4
